US05606040
A solution of 150 μg of LL-E33288γ1 -I in 1 ml of acetonitrile was treated with 50 μl of a 1 μmole/ml solution of 1-methyl-1-propyl mercaptan. After 2 hours, the reaction was complete, giving the desired 1-methyl-1-propyl disulfide of LL-E33288γ1 -I.

reactant | 1-methyl-1-propyl mercaptan | CC(CC)S | C4H10S
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 1-methyl-1-propyl disulfide | CC(CC)SSC(CC)C | C8H18S2
